US04579860
2-Chlorocarbonyl-5-chloromethyl-4-isoxazolin-3-one
A mixture of 673 mg of 5-chloromethyl-3-hydroxyisoxazole, 19 ml of benzene and about 1 ml of liquified phosgene was stirred at room temperature for 5 hours. At the end of this time, the excess phosgene and the solvent were distilled off, giving 900 mg (yield 100% of theory) of the title compound, in the form of a colourless oil having a refractive index, nD24 =1.5391.

reactant | 5-chloromethyl-3-hydroxyisoxazole | 673 mg | ClCC1=CC(=NO1)O | C4H4ClNO2
reactant | phosgene | about 1 ml | C(=O)(Cl)Cl | CCl2O
solvent | benzene | 19 ml | C1=CC=CC=C1 | C6H6
product | 2-Chlorocarbonyl-5-chloromethyl-4-isoxazolin-3-one | yield 100% | ClC(=O)N1OC(=CC1=O)CCl | C5H3Cl2NO3
